US05247042
(2) 4-(N-4-acetoxybutyl-N-butylamino)benzaldehyde
To a stirred solution of 249.4 g (1 mole) of 4-(N-4-hydroxybutyl-N-butylamino)benzaldehyde in dichloromethane are added 153.1 g (1.5 moles) of acetic anhydride, 151.8 g (1.5 moles) of triethylamine, and 8.5 g (7 mole %) of 4-N,N-dimethylaminopyridine. The reaction mixture is stirred at room temperature for 16 hours. The product solution is washed with cold 2N HCl and then with filtered through cotton, and evaporated to dryness.

reactant | 4-(N-4-hydroxybutyl-N-butylamino)benzaldehyde | 1 mole, 249.4 g | OCCCCN(CCCC)C1=CC=C(C=O)C=C1 | C15H23NO2
reactant | acetic anhydride | 1.5 moles, 153.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.5 moles, 151.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(N-4-acetoxybutyl-N-butylamino)benzaldehyde | C(C)(=O)OCCCCN(CCCC)C1=CC=C(C=O)C=C1 | C17H25NO3
